US05646173
A lithium diisopropylamide solution, freshly prepared from 3.12 ml of diisopropylamine and 13.8 ml of 1.6N n-butyllithium in hexane, in 40 ml of anhydrous tetrahydrofuran was added dropwise while stirring to a solution, cooled to -70°, of 2.96 g of 6-methoxy-1-indanone in 300 ml of anhydrous tetrahydrofuran. The mixture was stirred at this temperature for an additional 30 minutes and a solution of 2.03 ml of 3-chloro-2-butenone dissolved in 40 ml of anhydrous tetrahydrofuran was subsequently added dropwise over 10 minutes. The reaction mixture was left to come to room temperature over 30 minutes and was stirred at this temperature for a further 30 minutes. Subsequently, the reaction mixture was poured on to 150 ml of ice, 150 ml of saturated sodium chloride were added and the organic phase was separated. The aqueous phase was extracted once with 400 ml of diethyl ether, the combined organic phases were washed once with 200 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated in a vacuum. The red oil obtained was purified by column chromatography on silica gel (hexane/diethyl ether 3:2). In addition to 0.93 g of educt there were obtained 1.56 g (37%) of rac-6-methoxy-2-(3-oxo-2-butyl)-1-indanone as a yellow oil.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 3.12 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6N, 13.8 ml | C(CCC)[Li]
reactant | 6-methoxy-1-indanone | 2.96 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | rac-6-methoxy-2-(3-oxo-2-butyl)-1-indanone | 1.56 g, 37% | COC1=CC=C2CC(C(C2=C1)=O)C(C)C(C)=O | C14H16O3
